US04596819
Synthesis of BOC-D-leucylglycinamide
1.55 g (0.014 mole) of glycinamide hydrochloride is dissolved in 50 ml of DMF by warming to 50°. The solution is cooled to 25° and 2 ml of triethylamine is added, followed by 1.89 g of hydroxybenztriazole, 3.5 g (0.014 mol) of BOC-D-leucine H2O and lastly, 2.9 g (0.014 mol) of dicyclohexylcarbodiimide. The mixture is stirred two days at 25° and then evaporated in vacuo to an oil. The oil is dissolved in 200 ml EtOAC, 50 ml CHCl3. The organic solution is washed with water, 20% citric acid solution, water, 10% Na2CO3 solution. The EtOAc solution is dried over MgSO4 and the solvent removed in vacuo to a glass, 3.7 g (93%).

reactant | glycinamide hydrochloride | 0.014 mole, 1.55 g | Cl.NCC(=O)N
reactant | hydroxybenztriazole | 1.89 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | BOC-D-leucine H2O | 0.014 mol, 3.5 g | C(=O)(OC(C)(C)C)N[C@H](CC(C)C)C(=O)O.O
reactant | dicyclohexylcarbodiimide | 0.014 mol, 2.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | BOC-D-leucylglycinamide | C(=O)(OC(C)(C)C)N[C@H](CC(C)C)C(=O)NCC(=O)N | C13H25N3O4
